US08609688B2
Synthesis of 2-methoxy-N-{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}acetamide
A mixture of N-[1-(3-bromophenyl)piperidin-4-yl]-2-methoxyacetamide (66 mg, 0.202 mmol), bis(pinacolato)diboron (61 mg, 0.242 mmol), Pd(dppf)Cl2.DCM (8 mg, 0.0101 mmol) and potassium acetate (59 mg, 0.606 mmol) in dioxane (3 mL) was heated at 80° C. for 15.5 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAct, washed with water, brine, dried over Na2SO4, then filtrated. The filtrate was concentrated and the residue was purified by silica gel column chromatography (hexane/AcOEt=25:75→0:100) to afford desired product (61 mg, 81%) as pale yellow solid. LCMS: 375 [M+H].

reactant | N-[1-(3-bromophenyl)piperidin-4-yl]-2-methoxyacetamide | 0.202 mmol, 66 mg | BrC=1C=C(C=CC1)N1CCC(CC1)NC(COC)=O | C14H19BrN2O2
reactant | bis(pinacolato)diboron | 0.242 mmol, 61 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.0101 mmol, 8 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 0.606 mmol, 59 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methoxy-N-{1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidin-4-yl}acetamide | 61 mg, 81% | COCC(=O)NC1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C20H31BN2O4
